US04400383
To a slurry of sodium hydride (1.6 mole) made from 70 g of 57% dispersion in mineral oil and 200 ml of dimethylformamide (DMF) was added a solution of carbazole (83.5 g, 0.5 mole) in DMF (150 ml). When hydrogen was no longer evolved a slurry of 3-(3,5-cis-dimethylpiperazino)propyl chloride dihydrochloride (131 g, 0.5 mole) in DMF (200 ml) was added to the reaction at a slow rate. The reaction was run under nitrogen using a demand system with an oil bubbler. There was some foaming as the slurry was added and the rate of addition was adjusted to keep this to a minimum. After addition was completed the reaction was heated (90°-120°) for 16 to 18 hours, cooled, filtered and stripped of solvent by vacuum distillation. The viscous residue was warmed with 2 liters of 1 N hydrochloric acid, cooled, and washed with ether (500 ml). The ether layer which contained any unreacted carbazole was discarded. The aqueous layer was treated with activated charcoal and filtered through Celite®. The filtrate was made basic to Alkacid® paper using sodium hydroxide, and then extracted with ether four times. Both ether and aqueous layers were clear at the end of the extraction. The ether layer was dried with anhydrous magnesium sulphate or molecular sieves and the hydrochloride salt of 9-[3-(3,5-dimethylpiperazino) propyl]carbazole was precipitated by passing dry hydrogen chloride into the solution. The precipitate was collected and recrystallized from ethyl acetate or ethanol/ether mixture giving 9-[3-(3,5-dimethylpiperazino)propyl]carbazole dihydrochloride hemihydrate (50 g), m.p. 288°-290° C.

reactant | sodium hydride | 1.6 mole | [H-].[Na+]
reactant | carbazole | 0.5 mole, 83.5 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | hydrogen | [H][H] | H2
reactant | 3-(3,5-cis-dimethylpiperazino)propyl chloride dihydrochloride | 0.5 mole, 131 g | Cl.Cl.C[C@@H]1CN(C[C@@H](N1)C)CCCCl
reactant | DMF | 150 ml | CN(C=O)C | C3H7NO
reactant | DMF | 200 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 9-[3-(3,5-dimethylpiperazino)propyl]carbazole dihydrochloride hemihydrate | 50 g | O.Cl.Cl.CC1CN(CC(N1)C)CCCN1C2=CC=CC=C2C=2C=CC=CC12.CC1CN(CC(N1)C)CCCN1C2=CC=CC=C2C=2C=CC=CC12.Cl.Cl | InChI=1S/2C21H27N3.4ClH.H2O/c2*1-16-14-23(15-17(2)22-16)12-7-13-24-20-10-5-3-8-18(20)19-9-4-6-11-21(19)24;;;;;/h2*3-6,8-11,16-17,22H,7,12-15H2,1-2H3;4*1H;1H2
